US05629406
13(a) (2R,3R)-1-t-Butoxycarbonyl-2-benzyloxymethyl-3-hydroxypyrrolidine
A solution of 2.01 g (7.68 mmol) of tetrabutylammonium fluoride in 5 ml of tetrahydrofuran was added, whilst ice-cooling, to a solution of 2.16 g (5.12 mmol) of (2S,3S)-1-t-butoxycarbonyl-2-benzyloxymethyl-3-t-butyldimethylsilyloxypyrrolidine in 5 ml of tetrahydrofuran, and the mixture was stirred at room temperature for 4 hours. At the end of this time, the reaction mixture was diluted with ethyl acetate, and the organic extract was washed with 0.5N aqueous hydrochloric acid, with a 5% w/v aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The reaction mixture was then dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The resulting residue was then purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.57 g of the title compound as an oil.

reactant | tetrabutylammonium fluoride | 7.68 mmol, 2.01 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (2S,3S)-1-t-butoxycarbonyl-2-benzyloxymethyl-3-t-butyldimethylsilyloxypyrrolidine | 5.12 mmol, 2.16 g | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CC1)O[Si](C)(C)C(C)(C)C)COCC1=CC=CC=C1 | C23H39NO4Si
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-1-t-Butoxycarbonyl-2-benzyloxymethyl-3-hydroxypyrrolidine | 1.57 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)O)COCC1=CC=CC=C1 | C17H25NO4
